US07449477B2
7-Phenyl-isoquinoline-5-sulfonic acid [2-(2,3-dihydroxy-3-(4-nitrophenyl)-propylamino)-ethyl]-amide, dihydrochloride salt
Add 4M HCl/dioxane solution (400 μL, 1.60 mmol) to a solution of [2,3-dihydroxy-3-(4-nitro-phenyl)-propyl]-[2-(7-phenyl-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester (100 mg, 0.16 mmol in CH2Cl2 (3 mL) and CH3OH (2 mL) at room temperature under argon, and stir the mixture for 2 hours. Evaporate the solvent and wash the salt several times with Et2O and dry, to obtain the title compound. 1H NMR (CD3OD): δ9.95 (bs, 1H), 8.94-9.12 (m, 3H), 8.78 (m, 1H), 8.24 (m, 2H), 7.94 (m, 2H), 7.52-7.72 (m, 5H); 4.82-4.97 (m, 1H, under H2O signal), 4.07-4.15 (m, 1H), 3.05-3.31 (m, 6H).

reactant | HCl dioxane | 1.60 mmol, 4M, 400 μL | Cl.O1CCOCC1
reactant | [2,3-dihydroxy-3-(4-nitro-phenyl)-propyl]-[2-(7-phenyl-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1)CC(C(C1=CC=C(C=C1)[N+](=O)[O-])O)O)=O | C31H34N4O8S
reactant | CH3OH | 2 mL | CO | CH4O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 7-Phenyl-isoquinoline-5-sulfonic acid [2-(2,3-dihydroxy-3-(4-nitrophenyl)-propylamino)-ethyl]-amide, dihydrochloride salt | Cl.Cl.OC(CNCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])O | InChI=1S/C26H26N4O6S.2ClH/c31-24(26(32)19-6-8-22(9-7-19)30(33)34)17-28-12-13-29-37(35,36)25-15-20(18-4-2-1-3-5-18)14-21-16-27-11-10-23(21)25;;/h1-11,14-16,24,26,28-29,31-32H,12-13,17H2;2*1H
